US04912231
A. (cis)-1-Benzoyl-4-tosyloxy-L-proline, methyl ester
A solution of (cis)-1-benzoyl-4-hydroxy-L-proline, methyl ester (1.9 g, 7.63 mmole) in pyridine (6 ml) was stirred under argon and treated with p-toluenesulfonyl chloride (1.75 g, 9.16 mmole). The reaction was stirred overnight, treated with additional p-toluenesulfonyl chloride (0.145 g, 0.76 mmole) and stirred for 24 hours. Ice water was added followed by ethyl acetate. The organic layer was washed with 1N HCl, brine, and dried. Filtration and concentration in vacuo afforded the title compound as a foam which was used without purification in the subsequent step.

reactant | (cis)-1-benzoyl-4-hydroxy-L-proline, methyl ester | 7.63 mmole, 1.9 g | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OC)C[C@@H](C1)O | C13H15NO4
reactant | p-toluenesulfonyl chloride | 9.16 mmole, 1.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 0.76 mmole, 0.145 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (cis)-1-Benzoyl-4-tosyloxy-L-proline, methyl ester | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)OC)C[C@@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C20H21NO6S
